US09034866B2
10-bromo-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford 56 mg (48.3%) of 10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide.

reactant | 10-bromo-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(F)(F)F)C1 | C13H9BrF3N3O2
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | 10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-3-(trifluoromethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 56 mg, 48.3% | O[C@@]1(C(N(CC1)C)=O)C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(F)(F)F)C1 | C20H17F3N4O4
